US08039463B2
DIC (1.34 g, 10.2 mmol) was added drop wise to a stirred solution of 3,4,5-trifluoro benzoic acid (1.5 g, 8.5 mmol) in THF (10 mL) and the resulting mixture was maintained for 30 minutes at room temperature. Mono benzyl piperazine (1.64 g, 9.35 mmol) was then added and the mixture heated to reflux at 70° C. overnight, under an atmosphere of nitrogen. The resulting solid precipitate was filtered and the filtrate was washed with water and evaporated. The residue was purified by column chromatography using silica gel 60-120 mesh (12% ethyl acetate in hexane) to afford 1.7 g (60%) of (4-benzyl-piperazin-1-yl)-(3,4,5-trifluoro-phenyl)-methanone. 1H NMR: (CDCl3): δ 7.32 (m, 5H), 7.06 (t, 2H), 3.75 (bs, 2H), 3.54 (s, 2H), 3.44 (bs, 2H), 2.46 (bs, 4H).

reactant | DIC | 10.2 mmol, 1.34 g | CC(N=C=NC(C)C)C | C7H14N2
reactant | 3,4,5-trifluoro benzoic acid | 8.5 mmol, 1.5 g | FC=1C=C(C(=O)O)C=C(C1F)F | C7H3F3O2
reactant | Mono benzyl piperazine | 9.35 mmol, 1.64 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4-benzyl-piperazin-1-yl)-(3,4,5-trifluoro-phenyl)-methanone | 1.7 g, 60% | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1=CC(=C(C(=C1)F)F)F | C18H17F3N2O
